US07223788B2
1-(4-Butoxyphenyl)cyclopropanecarboxylic acid {4-[3-(acetylmethylamino)-pyrrolidin-1-yl]phenyl}amide
1-(4-Hydroxyphenyl)cyclopropanecarboxylic acid {4-[3-(acetylmethylamino)pyrrolidin-1yl]phenyl}amide was reacted with n-butyl bromide by method H. This resulted in the product with the molecular weight of 449.60, (C27H35N3O3); MS(ESI): 450 (M+H+).

reactant | 1-(4-Hydroxyphenyl)cyclopropanecarboxylic acid {4-[3-(acetylmethylamino)pyrrolidin-1yl]phenyl}amide | C(C)(=O)CNC1CN(CC1)C1=CC=C(C=C1)NC(=O)C1(CC1)C1=CC=C(C=C1)O | C23H27N3O3
reactant | n-butyl bromide | C(CCC)Br | C4H9Br
product | 1-(4-Butoxyphenyl)cyclopropanecarboxylic acid {4-[3-(acetylmethylamino)-pyrrolidin-1-yl]phenyl}amide | C(C)(=O)CNC1CN(CC1)C1=CC=C(C=C1)NC(=O)C1(CC1)C1=CC=C(C=C1)OCCCC | C27H35N3O3
